US04843085
To 140 ml of 50% dioxane-water solution was added 12.8 ml conc. nitric acid (d=1.40), and suspended therein 20 g of dimethyl 4[(4-bromobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate while maintaining the system at 5° to 10° C. under ice cooling. After adding 5.6 g of sodium nitrite, the reaction mixture was vigorously stirred and then filtered. The filtrate obtained was adjusted to pH8 with a saturated aqueous solution of sodium bicarbonate and extracted with chloroform. After washing with water, the organic layer was dried over anhydrous magnesium sulfate and the solvent distilled off. The resultant residue was recrystallized from ethyl acetate--ether to yield 10.4 g of dimethyl 2,6-dimethyl-4-[(4-bromobutoxy)-5-nitrophenyl]pyridine-3,5-dicarboxylate.

reactant | nitric acid | 12.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | dimethyl 4[(4-bromobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 20 g | BrCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C21H25BrN2O7
reactant | sodium nitrite | 5.6 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane water | 140 ml | O1CCOCC1.O
product | dimethyl 2,6-dimethyl-4-[(4-bromobutoxy)-5-nitrophenyl]pyridine-3,5-dicarboxylate | 10.4 g | CC1=NC(=C(C(=C1C(=O)OC)C1=C(C=CC(=C1)[N+](=O)[O-])OCCCCBr)C(=O)OC)C | C21H23BrN2O7
